StepSubckt
*-----------------------------------------------------------------------------
*NOTES
*-----------------------------------------------------------------------------
*STEP WIT LPF AND HPF


*=============================================================================
* Calibration
*=============================================================================
.PARAM C 	5n
.PARAM fc 	5k



*-----------------------------------------------------------------------------
*Libraries, Models and includes
*-----------------------------------------------------------------------------
.lib LPF.LIB
.lib HPF.LIB

* .lib 1 ako:LPF
* .lib 2 ako:HPF

* .lib 1 ako:LPF.LIB
* .lib 2 ako:HPF.LIB

* .lib 1 ako:{.lib LPF.LIB}
* .lib 2 ako:{.lib HPF.LIB}

* .model 1 ako:LPF
* .model 2 ako:HPF

* .PARAM 1 {LPF}
* .PARAM 2 {HPF}

* .PARAM PRUBA {if (Filter = 1, LPF , HPF)}
* .PARAM PRUBA {if (Filter = 1, 1 , 2)}

.func change(FILTER) {if (Filter = 1, LPF , HPF)}

* https://ez.analog.com/design-tools-and-calculators/ltspice/f/q-a/121723/ltspice-stepping-build-in-opamp-models
*-----------------------------------------------------------------------------
*CIRCUIT
*-----------------------------------------------------------------------------
*
VS	1	0	AC 1 SIN(0VOFF 1VPEAK 2KHZ)

*
* XLPF 1 OUT {PRUEBA}	;PARAMS: C = {C}	fc = {fc}
XLPF 1 OUT {change(FILTER)}	;PARAMS: C = {C}	fc = {fc}

*-----------------------------------------------------------------------------
* ANALYSIS
*-----------------------------------------------------------------------------
* .step param Filter list 100 101
.step param Filter list 1 2
.AC 	DEC 	10 	10 	10MEG
* [ltz] removed: .PROBE
.END
